US08912180B2
To a mixture of methyl[(2S)-1-({trans-4-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-4-(methylsulfanyl)-1-oxobutan-2-yl]carbamate (2.0 g), methylene chloride (20 mL) and methanol (20 mL) was added methyl iodide (15.5 mL), followed by stirring at room temperature overnight. The solvent was evaporated under reduced pressure, and to a mixture of the residue and dimethylformamide (10 mL) was added cesium carbonate (4.8 g), followed by stirring overnight. To the reaction solution was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, the desiccant was removed by filtration, and then the solvent was evaporated under reduced pressure. To the residue was added ethanol, and the resulting solid was collected by filtration and dried under reduced pressure to obtain methyl[(3S)-1-{trans-4-[(tert-butoxycarbonyl)amino]cyclohexyl}-2-oxopyrrolidin-3-yl]carbamate (0.65 g).

reactant | methyl[(2S)-1-({trans-4-[(tert-butoxycarbonyl)amino]cyclohexyl}amino)-4-(methylsulfanyl)-1-oxobutan-2-yl]carbamate | 2.0 g | COC(N[C@H](C(=O)N[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)CCSC)=O | C18H33N3O5S
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
reactant | methyl iodide | 15.5 mL | CI | CH3I
solvent | methanol | 20 mL | CO | CH4O
product | methyl[(3S)-1-{trans-4-[(tert-butoxycarbonyl)amino]cyclohexyl}-2-oxopyrrolidin-3-yl]carbamate | 0.65 g | COC(N[C@@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)=O)=O | C17H29N3O5
